simulator lang=spectre
global 0
; NOTE: replace with your own PDK model file. Original: CSMC 0.18um, sm1816m50v13_usage.scs, section=tt_lib
include "/path/to/your/pdk/model.scs" section=tt_lib

subckt IAC VINN VINP VOUT IBIAS VDD VSS
C1 (net045 VSS) capacitor c=9.386e-13 m=1 //// *C_a*
C0 (net035 VOUT) capacitor c=5.558e-13 m=1 //// Miller cap

NM15 (net51 IBIAS2 VSS VSS) mn18 w=1.944e-05 l=5.187e-07 m=33 //// *Load* *gm2*
NM14 (net021 IBIAS net51 VSS) mn18 w=1.898e-05 l=1.311e-06 m=19 //// *Load* *gm2*
NM12 (net012 IBIAS2 VSS VSS) mn18 w=1.081e-05 l=1.045e-06 m=2 //// *Current tail* *gm1*
NM11 (net035 VINP net012 VSS) mn18 w=1.913e-05 l=1.917e-06 m=19 //// *Input* *gm1* ``NM10``
NM10 (net013 VINN net012 VSS) mn18 w=1.913e-05 l=1.917e-06 m=19 //// *Input* *gm1* ``NM11``
NM8 (VOUT net55 VSS VSS) mn18 w=1.941e-05 l=6.743e-07 m=26 //// *Input* *gm3*
NM7 (net51 net021 VSS VSS) mn18 w=9.979e-06 l=1.033e-06 m=1 //// *Load* *gm2* ``NM4``
NM4 (net55 net021 VSS VSS) mn18 w=9.979e-06 l=1.033e-06 m=1 //// *Load* *gm2* ``NM7``
R2 (net55 net045) resistor r=15050.0 l=7.237e-07 m=1 ////*R_A*
PM9 (net013 net013 VDD VDD) mp18 w=1.905e-05 l=1.703e-06 m=20 //// *Load* *gm1* ``PM8``
PM8 (net035 net013 VDD VDD) mp18 w=1.905e-05 l=1.703e-06 m=20 //// *Load* *gm1* ``PM9``
PM7 (VOUT net035 VDD VDD) mp18 w=1.985e-05 l=7.167e-07 m=20 //// *Load* *gm3* *Input* *gmf*
PM06 (net021 net035 VDD VDD) mp18 w=1.928e-05 l=1.253e-06 m=6 //// *Input* *gm2*
PM5 (net055 IBIASP1 VDD VDD) mp18 w=1.984e-05 l=1.889e-06 m=42 //// *Load* *gm2*  ``PM12``
PM12 (net55 IBIASP2 net055 VDD) mp18 w=1.984e-05 l=1.889e-06 m=42 //// *Load* *gm2* ``PM5``
PM11 (net67 IBIASP1 VDD VDD) mp18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
PM10 (IBIASP1 IBIASP2 net67 VDD) mp18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM22 (IBIASP2 IBIAS net68 VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM5 (IBIAS2 IBIAS net69 VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM23 (net68 IBIAS2 VSS VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM6 (net69 IBIAS2 VSS VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
R0 (IBIAS IBIAS2) resistor r=666666.6666666667////Bias Resistor, should not change
R1 (IBIASP1 IBIASP2) resistor r=666666.6666666667////Bias Resistor, should not change
ends IAC



            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=5e-10
            I0 (VDD IBIAS) isource dc=3e-07 type=dc
            I1 (VOUT VINP VOUT IBIAS VDD VSS) IAC
            V2 (VINP 0) vsource type=pulse val0=1.2 val1=0.6 period=2.5e-05 rise=1p fall=1p
        